US05162334
17-Ethyl-1,14-dihydroxy-12-[2'-(3"-hydroxy-4"-phenpropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-cinnamyloxy-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (37 mg in 2 ml ethanol) is added 4 mg of 5% rhodium on carbon catalyst. The reaction flask is fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 1.5 hours, the mixture is filtered over diatomaceous earth, concentrated and purified by preparative TLC on silica gel

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-cinnamyloxy-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 2 ml, 37 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=CC2=CC=CC=C2)O)C)C)O)=O | C51H75NO12
reactant | hydrogen | [H][H] | H2
catalyst | rhodium on carbon | 4 mg | [Rh] | Rh
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-hydroxy-4"-phenpropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCCC2=CC=CC=C2)O)C)C)O)=O | C51H77NO12
